US06225311B1
The ethyl 4-(4-morpholinylcarbonyl)-2-piperazinecarboxylate (0.41 g, 1.55 mmol) was dissolved in pyridine (1.44 mL). To this solution was added a solution of 4-but-2-ynyloxy-benzenesulfonyl chloride (0.38 g, 1.55 mmol) in pyridine (1 mL). The reaction was stirred overnight and then poured into water. The mixture was extracted three times with chloroform. The organics were combined, washed with 10% HCl, twice with water, then brine and dried over Na2SO4. The solution was filtered and concentrated in vacuo to provide 0.6 g (81%) of 1-(4but-2-ynyloxy-benzenesulfonyl)-4-(morpholine4-carbonyl)- piperazine-2-carboxylic acid ethyl ester as a gold oil. Electrospray Mass Spec 480.2 (M+H)+.

reactant | ethyl 4-(4-morpholinylcarbonyl)-2-piperazinecarboxylate | 1.55 mmol, 0.41 g | N1(CCOCC1)C(=O)N1CC(NCC1)C(=O)OCC | C12H21N3O4
reactant | 4-but-2-ynyloxy-benzenesulfonyl chloride | 1.55 mmol, 0.38 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
reactant | water | O | H2O
solvent | pyridine | 1.44 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4but-2-ynyloxy-benzenesulfonyl)-4-(morpholine4-carbonyl)- piperazine-2-carboxylic acid ethyl ester | 0.6 g, 81% | C(C)OC(=O)C1N(CCN(C1)C(=O)N1CCOCC1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C22H29N3O7S
